US07691850B2
d) Phenylmethyl {[(3R,4Z)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-(hydroxyimino)-3-pyrrolidinyl]methyl}carbamate
To 3-Fluoro-6-methoxy-4-vinyl-quinoline (0.554 g, 2.72 mmol) was added DMF (2.0 mL). Phenylmethyl {[(3S,4Z)-4-(hydroxyimino)-3-pyrrolidinyl]methyl}carbamate (0.66 g, 2.21 mmol) and TEA (0.76 mL, 5.44 mmol) were added to the mixture and the reaction was heated and stirred at 90 degrees C. for 18 hours. The solution was concentrated under reduced pressure and was chromatographed on silica gel to yield an oil (0.180 g, 18%). LCMS: m/z 468.4 (MH+).

reactant | 3-Fluoro-6-methoxy-4-vinyl-quinoline | 2.72 mmol, 0.554 g | FC=1C=NC2=CC=C(C=C2C1C=C)OC | C12H10FNO
reactant | Phenylmethyl {[(3S,4Z)-4-(hydroxyimino)-3-pyrrolidinyl]methyl}carbamate | 2.21 mmol, 0.66 g | O\N=C/1\[C@@H](CNC1)CNC(OCC1=CC=CC=C1)=O | C13H17N3O3
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | Phenylmethyl {[(3R,4Z)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-(hydroxyimino)-3-pyrrolidinyl]methyl}carbamate | 0.180 g, 18% | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H](/C(/C1)=N/O)CNC(OCC1=CC=CC=C1)=O)OC | C24H26FN5O4
